US06586617B1
Synthesis of 4′-Bromo-N-methyl-2′-nitro-p-toluenesulfonanilide (Compound No. 398)
4′-Bromo-N-methyl-p-toluenesulfonanilide (0.90 g (2.65 mmol)) was dissolved in 5.0 ml of acetic acid. To this, 97% fuming nitric acid (0.64 ml (15.0 mmol)) was added dropwise, and the mixture was heated at 100° C. for 1.5 hours with stirring, followed by cooling to room temperature. Then, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with saturated aqueous solution of sodium bicarbonate, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:3) as eluent, to give 0.64 g (63%) of the title compound as pale yellow crystals.

reactant | 4′-Bromo-N-methyl-p-toluenesulfonanilide | 2.65 mmol, 0.90 g | BrC1=CC=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1 | C14H14BrNO2S
reactant | nitric acid | 15.0 mmol, 0.64 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 4′-Bromo-N-methyl-2′-nitro-p-toluenesulfonanilide | 0.64 g, 63% | BrC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)[N+](=O)[O-] | C14H13BrN2O4S
